US05786358
To 0.15 g (0.47 mmol) of 5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]-pyrimidin-6-yl)ethyl]thien-2-ylcarboxylic acid in a three-necked round bottomed flask under an atmosphere of nitrogen were added 3.0 mL of anhydrous dimethylformamide and 0.11 mL (0.99 mmol) of 4-methylmorpholine. To this was then added 0.84 g (0.48 mmol) of 2-chloro-4,6-dimethoxy-1,3,5-triazine. The reaction mixture was stirred at room temperature for 35 minutes and a solution of 0.072 g (0.51 mmol) of glycine ethyl ester hydrochloride in 1.0 mL of anhydrous dimethylformamide was added together with 0.65 mL (5.85 mmol) of 4-methylmorpholine. After 35 minutes, an additional 0.015 g (0.11 mmol) of glycine ethyl ester hydrochloride and 0.2 mL (1.80 mmol) of 4-methylmorpholine was added. The reaction was stirred for 3 hours and concentrated in vacua. The crude mixture then was chromatographed on silica gel eluting with a gradient of 2-12% CH3OH/CHCl3 to give 0.072 g (38%) of N-{5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]thien-2-ylcarbonyl}glycine ethyl ester as a white solid. Rf=0.34 (20% CH3OH/CHCl3) m.p.=152°-160° C. (foam, dec.) Mass Spectrum (FD+): M+=405; IR (CHCl3, cm-1)=1046, 1196, 1304, 1464, 1602, 1745, 2363, 2977, 3025, 3619; UV (C2H5OH) λmax =222, 279 (ε=24333, 23816); 1H NMR (300 MHz, DMSOd6) δ1.17 (t, J=6.5 Hz, 3H), 1.52-1.60 (m, 3H), 1.77-1.84 (m, 1H), 2.40-2.44 (m, 1H), 2.72-2.8(m, 3H), 3.14-3-24 (m, 1H), 3.91 (d, J=4.7 Hz, 2H), 4.05-4.12 (m, 2H), 6.24 (s, 2H), 6.89 (s, 1H, 7.57 (s, 1H), 8.80 (s, 1H), 9.66 (s, 1H).

reactant | 5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]-pyrimidin-6-yl)ethyl]thien-2-ylcarboxylic acid | 0.47 mmol, 0.15 g | NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC=C(S2)C(=O)O)O | C14H16N4O3S
reactant | 4-methylmorpholine | 0.99 mmol, 0.11 mL | CN1CCOCC1 | C5H11NO
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 0.48 mmol, 0.84 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | glycine ethyl ester hydrochloride | 0.51 mmol, 0.072 g | Cl.C(C)OC(CN)=O
reactant | 4-methylmorpholine | 5.85 mmol, 0.65 mL | CN1CCOCC1 | C5H11NO
reactant | glycine ethyl ester hydrochloride | 0.11 mmol, 0.015 g | Cl.C(C)OC(CN)=O
reactant | 4-methylmorpholine | 1.80 mmol, 0.2 mL | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | N-{5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]thien-2-ylcarbonyl}glycine ethyl ester | 0.072 g, 38% | C(C)OC(CNC(=O)C=1SC(=CC1)CCC1CC2=C(N=C(N=C2O)N)NC1)=O | C18H23N5O4S
